US08685974B2
To a solution of 1-methyl-3-(4-methyl-2-thienyl)-1H-pyrazole (4.7 mmol) in 14 mL dry 1V, N-dimethylformamide under argon atmosphere was added N-iodosuccinimide (5.0 mmol) in small portions at 0° C. The reaction mixture was allowed to warm to room temperature and was stirred overnight. 5% aqueous sodium thiosulfate solution and saturated aqueous sodium carbonate solution were added and the mixture was stirred at room temperature for 1 h, then extracted with MTBE. The combined organic extracts were successively washed with water and brine, dried over MgSO4, filtered and concentrated. The residue was purified by chromatography on silica gel (cyclohexane:dichloromethane 100:0 to 0:100) to afford 1.26 g 4-iodo-1-methyl-3-(4-methyl-2-thienyl)-1H-pyrazole (84% yield).

reactant | 1-methyl-3-(4-methyl-2-thienyl)-1H-pyrazole | 4.7 mmol | CN1N=C(C=C1)C=1SC=C(C1)C | C9H10N2S
reactant | N-iodosuccinimide | 5.0 mmol | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 4-iodo-1-methyl-3-(4-methyl-2-thienyl)-1H-pyrazole | 1.26 g, 84% yield | IC=1C(=NN(C1)C)C=1SC=C(C1)C | C9H9IN2S
